US08222281B2
(13A) [3-(Methylsulfonyl)phenyl]methanol
3-(Methylsulfonyl)benzoic acid (540 mg, 2.70 mmol) was dissolved in tetrahydrofuran (40 mL), and the resulting solution was cooled to 0° C. Then, lithium aluminum hydride (102 mg, 2.70 mmol) was added thereto, and the temperature of the resulting mixture was raised to room temperature, and the mixture was stirred for 3 hours. Water was added to the reaction solution, and the organic matter was extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution, then dried over anhydrous magnesium sulfate and filtered. Then, the solvent was distilled off under reduced pressure, whereby a crude product was obtained. This crude product was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 70:30 (v/v)), whereby the objective title compound was obtained as a colorless oily substance (257 mg, yield: 51%).

reactant | 3-(Methylsulfonyl)benzoic acid | 2.70 mmol, 540 mg | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H8O4S
reactant | lithium aluminum hydride | 2.70 mmol, 102 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | [3-(Methylsulfonyl)phenyl]methanol | yield: 51% | CS(=O)(=O)C=1C=C(C=CC1)CO | C8H10O3S
